US06265575B1
Part B. 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-Methoxy-4-triisopropylsilyloxyphenyl Ketone.
A slurry of 3-methoxy-4-triisopropylsilyloxybenzoic acid (9.75 g, 30 mmol; Part A) in 300 mL of dichloroethane and 1 drop of DMF was treated with oxalyl chloride (13.1 mL, 150 mmol) and stirred overnight at ambient temperature. The reaction mixture was concentrated in vacuo and suspended in 300 mL of chlorobenzene. 6-Benzyloxy-2-(N,N-dimethylamino)benzo[b]thiophene (8.5 g, 30 mmol) was added, and the resulting mixture was heated at 105° C. for 5 h. After cooling to ambient temperature, the reaction mixture was poured into 500 mL of saturated aqueous NaHCO3 solution. The aqueous layer was extracted with CHCl3 (3×150 mL). The combined organics were dried over K2CO3, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2; gradient of 5% to 10% EtOAc in hexanes) afforded 6.05 g (10.3 mmol; 34%) of the title compound.

reactant | 3-methoxy-4-triisopropylsilyloxybenzoic acid | COC=1C=C(C(=O)O)C=CC1O[Si](C(C)C)(C(C)C)C(C)C | C17H28O4Si
reactant | oxalyl chloride | 150 mmol, 13.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-Benzyloxy-2-(N,N-dimethylamino)benzo[b]thiophene | 30 mmol, 8.5 g | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2)N(C)C)C1 | C17H17NOS
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-Methoxy-4-triisopropylsilyloxyphenyl Ketone | COC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C34H43NO4SSi
